US04092150
To a stirred solution of 2.7 grams of 4-chloro-2-(1-cyano-1-methylethylamino)-6-ethylamino-5-pyrimidinecarbonitrile in 50 ml of methanol was added a solution of 0.3 gram of sodium in 10 ml of methanol. The reaction mixture was heated under reflux for 3 hours. An additional small quantity of sodium in methanol was then added to the reaction mixture, and heating under reflux was continued for 1.5 hours. The excess methanol was removed from the reaction mixture by evaporation under reduced pressure. The residue was extracted with a mixture of diethyl ether and water. The diethyl ether layer was separated, washed with water, then dried over magnesium sulfate. The mixture was filtered, and the filtrate was evaporated under reduced pressure to a residue. The residue was washed with methylcyclohexane, and the insoluble solid was collected by filtration. The solid was recrystallized from benzene to give 1.7 grams of 2-(1-cyano-1-methylethylamino)-6-ethylamino-4-methoxy-5-pyrimidinecarbonitrile; mp, 130°-132°.

reactant | 4-chloro-2-(1-cyano-1-methylethylamino)-6-ethylamino-5-pyrimidinecarbonitrile | 2.7 grams | ClC1=NC(=NC(=C1C#N)NCC)NC(C)(C)C#N | C11H13ClN6
reactant | sodium | 0.3 gram | [Na] | Na
reactant | methanol | 50 ml | CO | CH4O
reactant | methanol | 10 ml | CO | CH4O
product | 2-(1-cyano-1-methylethylamino)-6-ethylamino-4-methoxy-5-pyrimidinecarbonitrile | 1.7 grams | C(#N)C(C)(C)NC1=NC(=C(C(=N1)OC)C#N)NCC | C12H16N6O
